US07547691B2
5-(2-Aminoethyl)-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester
Using the method of 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester, the title compound is synthesized from hexahydropyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester.

reactant | 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
reactant | hexahydropyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CNCC2C1 | C11H20N2O2
product | 5-(2-Aminoethyl)-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CCN | C13H25N3O2
